US07781436B2
{6-Chloro-3-[4-(2-fluoro-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) bromo-acetic acid gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1)F | C20H18ClFN2O
reactant | bromo-acetic acid | BrCC(=O)O | C2H3BrO2
product | {6-Chloro-3-[4-(2-fluoro-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1)F | C22H20ClFN2O3
